US08022062B2
Add potassium hydroxide (170 mg, 3.03 mmol) in one portion to a solution of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (187 mg, 0.49 mmol) in methanol (10 mL). Heat the reaction at reflux under nitrogen overnight. Then add further portion of KOH (867 mg, 15.45 mmol) and heat at reflux for 3 h. Then cool to room temperature and add 1-(3-bromo-propyl)-1,3-dihydro-3,3-dimethyl-indol-2-one (274 mg, 0.97 mmol, prepared by following the procedure described in Perkin 1 2000, 769-774). Stir the reaction at room temperature overnight. Remove solvents in vacuo, add water and extract with diethyl ether (2×50 mL). Combine the organic extracts, wash with water (2×50 mL) and brine (50 mL). Dry over MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 1:1 gradient over 40 min) to give 3-tert-butoxycarbonyl-7-chloro-6-[3-(3,3-dimethyl-2-oxo-2,3-dihydro-indol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colourless oil (330 mg), 50% contaminated with 1-(3-methoxypropyl)-1,3-dihydro-3,3-dimethyl-indol-2-one. MS (ES+) m/z: 537 (M+Na)+.

reactant | potassium hydroxide | 3.03 mmol, 170 mg | [OH-].[K+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.49 mmol, 187 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | KOH | 15.45 mmol, 867 mg | [OH-].[K+]
reactant | 1-(3-bromo-propyl)-1,3-dihydro-3,3-dimethyl-indol-2-one | BrCCCN1C(C(C2=CC=CC=C12)(C)C)=O | C13H16BrNO
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 3-tert-butoxycarbonyl-7-chloro-6-[3-(3,3-dimethyl-2-oxo-2,3-dihydro-indol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 330 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCCN2C(C(C1=CC=CC=C21)(C)C)=O | C28H35ClN2O3S
